US05382379
THF (100 ml) and 2N-hydrochloric acid (100 ml) were added to 4-(2'-(3",4",5"-trifluorophenyl)ethyl)methoxymethylenecyclohexane (20 g), followed by heating the mixture under reflux with stirring for 2 hours, adding to water (300 ml) after completion of the reaction, extracting with ethyl acetate (300 ml), drying the organic layer over anhydrous MgSO4 and concentrating under reduced pressure, to obtain 4-(2'-(3",4",5"-trifluorophenyl)ethyl)cyclohexane carbaldehyde (17 g).

reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | 4-(2'-(3",4",5"-trifluorophenyl)ethyl)methoxymethylenecyclohexane | 20 g | FC=1C=C(C=C(C1F)F)CCC1CCC(CC1)=COC | C16H19F3O
solvent | water | 300 ml | O | H2O
product | 4-(2'-(3",4",5"-trifluorophenyl)ethyl)cyclohexane carbaldehyde | 17 g | FC=1C=C(C=C(C1F)F)CCC1CCC(CC1)C=O | C15H17F3O
